US07479493B2
Step A: [5-(4-Isopropyl-piperazin-1-yl)-2-(4-methylsulfanyl-phenoxy)-benzyl]-methyl-carbamic acid tert-butyl ester.
A mixture of [5-bromo-2-(4-methylsulfanyl-phenoxy)-benzyl]-methyl-carbamic acid tert-butyl ester (300 mg, 0.684 mmol) {prepared in an analogous fashion to Example 1, Steps A-C}, isopropyl piperazine (132 mg, 1.02 mmol), XPHOS (39 mg, 0.082 mmol), Pd2(dba)3 (62.6 mg, 0.0684 mmol), and t-BuONa (98.0 mg, 1.02 mmol) in toluene was heated in a sealed tube overnight at 120° C. After cooling to rt, the mixture was filtered through diatomaceous earth and the filtrate was concentrated. Purification by FCC gave the desired product (180 mg, 54%). MS (ESI): mass calcd. for C27H39N3O3S, 485.27; m/z found, 486.4 [M+H]+. 1H NMR (CDCl3): 7.22 (d, J=8.5, 2H), 6.86-6.83 (m, 1H), 6.83-6.80 (m, 4H), 4.42-4.35 (m, 2H), 3.19-3.16 (m, 4H), 2.87-2.83 (m, 2H), 2.80-2.75 (m, 1H), 2.75-2.71 (m, 1H), 2.71-2.67 (m, 4H), 2.44 (s, 3H), 1.48-1.40 (m, 9H), 1.10 (d, J=6.5, 6H).

reactant | [5-bromo-2-(4-methylsulfanyl-phenoxy)-benzyl]-methyl-carbamic acid tert-butyl ester | 0.684 mmol, 300 mg | C(C)(C)(C)OC(N(C)CC1=C(C=CC(=C1)Br)OC1=CC=C(C=C1)SC)=O | C20H24BrNO3S
reactant | isopropyl piperazine | 1.02 mmol, 132 mg | C(C)(C)N1CCNCC1 | C7H16N2
reactant | XPHOS | 0.082 mmol, 39 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | t-BuONa | 1.02 mmol, 98.0 mg | C(C)(C)(C)O[Na]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.0684 mmol, 62.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [5-(4-Isopropyl-piperazin-1-yl)-2-(4-methylsulfanyl-phenoxy)-benzyl]-methyl-carbamic acid tert-butyl ester | 180 mg, 54% | C(C)(C)(C)OC(N(C)CC1=C(C=CC(=C1)N1CCN(CC1)C(C)C)OC1=CC=C(C=C1)SC)=O | C27H39N3O3S
